US08304419B2
Step B: 5-(Aminocarbonyl)-3-chloro-1H-pyrrole-2-carboxylic acid
LiOH (1 N in water, 2 mL, 2 mmol) was added to a solution of methyl 5-(aminocarbonyl)-3-chloro-1H-pyrrole-2-carboxylate (0.0602 g, 0.297 mmol) in THF (2 mL) and methanol (2 mL) and the solution was stirred at RT overnight. The reaction mixture was evaporated to a residue and partitioned with EtOAc and 1 N HCl. The organic layer was separated, dried over MgSO4 and evaporated to a solid to afford the title compound (0.057 g, 77%) as a tan solid which was used with no further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.07 (br. s., 1H), 7.80 (br. s., 1H), 7.43 (br. s., 1H), 6.57-6.89 (m, 1H).

reactant | LiOH | 2 mmol, 1 N, 2 mL | [Li+].[OH-]
reactant | methyl 5-(aminocarbonyl)-3-chloro-1H-pyrrole-2-carboxylate | 0.297 mmol, 0.0602 g | NC(=O)C1=CC(=C(N1)C(=O)OC)Cl | C7H7ClN2O3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | 5-(Aminocarbonyl)-3-chloro-1H-pyrrole-2-carboxylic acid | 0.057 g, 77% | NC(=O)C1=CC(=C(N1)C(=O)O)Cl | C6H5ClN2O3
